US07622471B2
1-(6-Methoxy-3-pyridyl)-5-(4-methoxy-2-pyridyl)pyrazole-3-carboxylic acid
1N Aqueous solution of sodium hydroxide (2.23 mL) was added to 1-(6-Methoxy-3-pyridyl)-5-(4-methoxy-2-pyridyl)pyrazole-3-carboxylic acid ethyl ester (0.416 g) obtained from Referential Example 18 in a mixture of methanol (6.3 mL) and tetrahydrofuran (6.3 mL) at room temperature, followed by stirring for 5 hours. The reaction mixture was neutralized with 1N aqueous solution of hydrochloric acid (2.23 mL), and then partitioned between water and chloroform. Subsequently, the aqueous layer was extracted with chloroform twice. The organic layer was dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, to thereby give the title compound as a solid substance (0.353 g, 92%).

reactant | sodium hydroxide | 2.23 mL | [OH-].[Na+]
reactant | 1-(6-Methoxy-3-pyridyl)-5-(4-methoxy-2-pyridyl)pyrazole-3-carboxylic acid ethyl ester | 0.416 g | C(C)OC(=O)C1=NN(C(=C1)C1=NC=CC(=C1)OC)C=1C=NC(=CC1)OC | C18H18N4O4
reactant | hydrochloric acid | 2.23 mL | Cl | ClH
solvent | methanol | 6.3 mL | CO | CH4O
solvent | tetrahydrofuran | 6.3 mL | O1CCCC1 | C4H8O
product | 1-(6-Methoxy-3-pyridyl)-5-(4-methoxy-2-pyridyl)pyrazole-3-carboxylic acid | COC1=CC=C(C=N1)N1N=C(C=C1C1=NC=CC(=C1)OC)C(=O)O | C16H14N4O4
